US06333349B1
0.86 g of ethanesulfonyl chloride was added dropwise with ice-cooling to a solution of 1.3 g of 5-amino-7-chloro-9-methyl-2,3,4,5-tetrahydro-1-benzoxepine and 2.4 g of triethylamine in 30 ml of THF. The mixture was allowed to come to room temperature and was stirred overnight, and the solvent was distilled off in vacuo. After stirring the residue with water, the deposited product was filtered off with suction and dried in vacuo. 1.6 g of 7-chloro-9-methyl-5-(N-ethylsulfonylamino)-2,3,4,5-tetrahydro-1-benzoxepine were obtained, m.p. 144-145° C.

reactant | ethanesulfonyl chloride | 0.86 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 5-amino-7-chloro-9-methyl-2,3,4,5-tetrahydro-1-benzoxepine | 1.3 g | NC1CCCOC2=C1C=C(C=C2C)Cl | C11H14ClNO
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-chloro-9-methyl-5-(N-ethylsulfonylamino)-2,3,4,5-tetrahydro-1-benzoxepine | 1.6 g | ClC=1C=C(C2=C(C(CCCO2)NS(=O)(=O)CC)C1)C | C13H18ClNO3S
